US04603144
A solution of 5-hexadecyloxy-2-tetrahydro pyranyloxymethyl-4-pyrone (1.1 g, 2.5 mmol) and HCl (10% in H2O, 10 ml) in THF (30 ml) was stirred at 25° overnight. TLC (ETAC/hexane: 3/7) indicated reaction was complete. The solution was diluted with ether (200 ml), washed with H2O (3×50 ml), 10% NaHCO3 (1×50 ml), sat'd NaCl (1×100 ml), dried (K2CO3) and concentrated to provide 0.88 g (98%) of 2-hydroxymethyl-5-hexadecyloxy-4-pyrone as a pure white solid mp 68.0°-69.5°.

reactant | 5-hexadecyloxy-2-tetrahydro pyranyloxymethyl-4-pyrone | 2.5 mmol, 1.1 g | C(CCCCCCCCCCCCCCC)OC=1C(C=C(OC1)COC1OCCCC1)=O | C27H46O5
reactant | HCl | 10 ml | Cl | ClH
reactant | hexane | CCCCCC | C6H14
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2-hydroxymethyl-5-hexadecyloxy-4-pyrone | 0.88 g, 98% | OCC=1OC=C(C(C1)=O)OCCCCCCCCCCCCCCCC | C22H38O4
